US09102899B2
To the mixture of 6-methyl-hept-5-en-2-one (90.86 g, 0.72 mol) and benzyl cyanide (46.8 g, 0.40 mol) is added dropwise a 4 N solution of KOH in MeOH (25.0 ml, 0.10 mol). The resulting suspension is heated to reflux during 4.5 h. Then methanol is removed by distillation and the residue is washed with 6 N aq. HCl-solution, then water, sat. aq. NaHCO3-solution and brine. The organic layer is dried over MgSO4, the solvent removed under reduced pressure and the residue distilled twice over a Widmer column to yield 3,7-Dimethyl-2-phenyl-octa-2,6-diene nitrile (21.5 g, 24%, (E/Z) mixture) as a colourless oil (b.p. 122DC/0.1 mbar).

reactant | 6-methyl-hept-5-en-2-one | 0.72 mol, 90.86 g | CC(=CCCC(C)=O)C | C8H14O
reactant | benzyl cyanide | 0.40 mol, 46.8 g | C(C1=CC=CC=C1)C#N | C8H7N
reactant | KOH | [OH-].[K+]
reactant | MeOH | 0.10 mol, 25.0 ml | CO | CH4O
product | 3,7-Dimethyl-2-phenyl-octa-2,6-diene nitrile | 21.5 g, 24% | CC(=C(C#N)C1=CC=CC=C1)CCC=C(C)C | C16H19N
